US09255110B2
A solution of (5′-methyl-2′,4′-dinitro-biphenyl-4-yl)-methanol (0.6 g) in N,N-dimethylacetamide dimethylacetal (5 mL) was heated at 100° C. for 2 hour. The reaction mixture was then cooled, diluted with ethyl acetate, washed with a diluted aqueous solution of hydrochloric acid, water and brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (acetone/DCM, 3/97) to afford 1-(4′-hydroxymethyl-4,6-dinitro-biphenyl-3-yl)-propan-2-one.

reactant | (5′-methyl-2′,4′-dinitro-biphenyl-4-yl)-methanol | 0.6 g | CC=1C(=CC(=C(C1)C1=CC=C(C=C1)CO)[N+](=O)[O-])[N+](=O)[O-] | C14H12N2O5
reactant | N,N-dimethylacetamide dimethylacetal | 5 mL | COC(C)(N(C)C)OC | C6H15NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4′-hydroxymethyl-4,6-dinitro-biphenyl-3-yl)-propan-2-one | OCC1=CC=C(C=C1)C1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])CC(C)=O | C16H14N2O6
